US04654343
Methyl[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]carbamic acid, ethyl ester
A mixture of 1.5 g of [3-(3-methyl-1,2,4-triazolo[4,3-b]-pyridazin-6-yl)phenyl]carbamic acid, ethyl ester, 0.29 g of sodium hydride (50% in oil) and 150 ml of dimethylformamide was stirred under argon for 1 hour and then 0.38 ml methyl iodide was added. This mixture was stirred overnight then poured onto 500 ml of water and extracted with 150 ml portions of dichloromethane. The extracts were combined, dried and concentrated in vacuo. The residue was chromatographed on 300 g of silica gel with dichloromethane-methanol (97:3). The fractions containing product were combined, the solvent evaporated in vacuo and the solid recrystalized from dichloromethane-hexane, to give 1.25 g of an off-white powder, mp 146°-149° C.

reactant | [3-(3-methyl-1,2,4-triazolo[4,3-b]-pyridazin-6-yl)phenyl]carbamic acid, ethyl ester | 1.5 g | CC1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)NC(OCC)=O | C15H15N5O2
reactant | sodium hydride | 0.29 g | [H-].[Na+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | methyl iodide | 0.38 ml | CI | CH3I
solvent | water | 500 ml | O | H2O
product | Methyl[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]carbamic acid, ethyl ester | 1.25 g | CN(C(OCC)=O)C1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)C | C16H17N5O2
